US08685970B2
To a solution of 2-amino-6-pyridinecarboxylic acid (6.0 g, 43.5 mmol) in ethanol (150 mL) was added SOCl2 (12.0 g, 101 mmol) at 0° C. The resulting reaction mixture was stirred under reflux for 12 h. Upon cooling to room temperature, the reaction mixture was concentrated under reduced pressure. Enough saturated aqueous Na2CO3 solution was added to adjust the pH=9. The mixture was concentrated under reduced pressure and dichloromethane (150 mL) was added to the resulting residue. The mixture was stirred vigorously at room temperature for 30 min and then filtered. The filtrate was concentrated under reduced pressure to afford ethyl 6-aminopicolinate (5.5 g, 76%).

reactant | 2-amino-6-pyridinecarboxylic acid | 43.5 mmol, 6.0 g | NC1=NC(=CC=C1)C(=O)O | C6H6N2O2
reactant | SOCl2 | 101 mmol, 12.0 g | O=S(Cl)Cl | Cl2OS
reactant | ethanol | 150 mL | C(C)O | C2H6O
product | ethyl 6-aminopicolinate | 5.5 g, 76% | NC1=CC=CC(=N1)C(=O)OCC | C8H10N2O2
